US07960369B2
methyl 2′-formyl-6′-methylbiphenyl-3-carboxylate
A mixture of 2-bromo-3-methylbenzaldehyde (0.30 g, 1.51 mmol), tris(dibenzylidenacetone)dipalladium (0) (0.055 g, 0.060 mmol), 2-(dicyclohexylphosphino)biphenyl (0.032 g, 0.091 mmol), tripotassium phosphate (0.64 g, 3.0 mmol), 3-(methoxycarbonylphenyl)boronic acid (0.35 g, 1.96 mmol) and toluene (6 mL) was stirred under an argon atmosphere at 90° C. for 17 hrs. The reaction mixture was cooled, diluted with ethyl acetate, washed with water and saturated brine, dried (anhydrous sodium sulfate), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-hexane/ethyl acetate=4/1) to give the title compound (0.25 g, yield 65%) as a yellow oil.

reactant | 2-bromo-3-methylbenzaldehyde | 1.51 mmol, 0.30 g | BrC1=C(C=O)C=CC=C1C | C8H7BrO
reactant | tripotassium phosphate | 3.0 mmol, 0.64 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 2-(dicyclohexylphosphino)biphenyl | 0.091 mmol, 0.032 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
product | methyl 2′-formyl-6′-methylbiphenyl-3-carboxylate | 0.25 g, yield 65% | C(=O)C1=C(C(=CC=C1)C)C1=CC(=CC=C1)C(=O)OC | C16H14O3
